US08236826B2
Production of ethyl 3-(3-methoxy-4-{5-[methyl-(4-trifluoromethylbenzyl)amino]pyridin-2-yloxy}phenyl)-propionate
To a solution of ethyl 3-{3-methoxy-4-[5-(4-trifluoromethylbenzylamino]pyridin-2-yloxy}phenyl}-propionate (0.8 g, 1.7 mmol) in methanol (15 mL) were added a 37% aqueous formaldehyde solution (0.38 mL, 5.1 mmol) and acetic acid (0.1 mL, 1.7 mmol). The reaction solution was stirred for 30 minutes at room temperature. After that, sodium cyanoborohydride (0.24 g, 3.4 mmol) was added to the reaction solution under ice cooling, and the mixture was stirred under ice cooling for 40 minutes. To the reaction solution was added water, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=4:1), to thereby yield 0.62 g of the title compound.

reactant | ethyl 3-{3-methoxy-4-[5-(4-trifluoromethylbenzylamino]pyridin-2-yloxy}phenyl}-propionate | 1.7 mmol, 0.8 g | COC=1C=C(C=CC1OC1=NC=C(C=C1)NCC1=CC=C(C=C1)C(F)(F)F)CCC(=O)OCC | C25H25F3N2O4
reactant | formaldehyde | 5.1 mmol, 0.38 mL | C=O | CH2O
reactant | acetic acid | 1.7 mmol, 0.1 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 3.4 mmol, 0.24 g | C(#N)[BH3-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
solvent | water | O | H2O
product | ethyl 3-(3-methoxy-4-{5-[methyl-(4-trifluoromethylbenzyl)amino]pyridin-2-yloxy}phenyl)-propionate | COC=1C=C(C=CC1OC1=NC=C(C=C1)N(CC1=CC=C(C=C1)C(F)(F)F)C)CCC(=O)OCC | C26H27F3N2O4
